US06943275B2
Preparation of 2,7-dibromo-9-(bisoctyl-methylene)fluorene:
To a solution of 2,7-dibromo-9-(bis-methylsulfanyl-methylene)fluorene (5.1 g, 12 mmol) in dry THF (100 ml) at 0° C. under nitrogen, was added a solution of lithium tetrachlorocuprate (5 ml of a 0.1 M solution in THF, 5 mol %). A solution of octylmagnesium bromide (13 ml of a 2.0M solution in diethyl ether, 0.026 mol) was added dropwise over 30 min. The reaction was stirred for 2 h at 5° C. The reaction was cooled to 0° C. and further lithium tetrachlorocuprate (1 ml of a 0.1M solution in THF, 1 mol %) was added. The reaction was then stirred for 24 h at 15° C., before quenching and workup as above. Yield (60%). Purity (HPLC>99%). 1H and 13C NMR spectra as expected. M+=560 (t).

reactant | 2,7-dibromo-9-(bis-methylsulfanyl-methylene)fluorene | 12 mmol, 5.1 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)=C(SC)SC | C16H12Br2S2
reactant | octylmagnesium bromide | C(CCCCCCC)[Mg]Br
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,7-dibromo-9-(bisoctyl-methylene)fluorene | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)=C(CCCCCCCC)CCCCCCCC | C30H40Br2
